US05112851
f) 5,7-Difluoro-1-bromomethylnaphthaline
1.35 g of 5,7-Difluoro-1-methylnaphthaline in 10 ml of carbon tetrachloride are refluxed for 41/2 hours with 1.4 g of N-bromosuccinimide and 50 mg of dibenzoylperoxide. The cooled mixture is filtered and the solvent removed under vacuum. The purity of the crystalline crude product is sufficient for further reaction, m.p. 74°-76.5°.

reactant | 5,7-Difluoro-1-methylnaphthaline | 1.35 g | FC1=C2C=CC=C(C2=CC(=C1)F)C | C11H8F2
reactant | N-bromosuccinimide | 1.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoylperoxide | 50 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5,7-Difluoro-1-bromomethylnaphthaline | FC1=C2C=CC=C(C2=CC(=C1)F)CBr | C11H7BrF2
